US04889857
By the use of 1-(2,4-difluorophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and 2-(ethylaminomethyl)morpholine, the reaction is similarly carried out as Example 26 to give 7-[2-(ethylaminomethyl)morpholino]-1(2,4-difluorophenyl)-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, melting at 226°-229° C. with decomposition. Examle 28

reactant | 1-(2,4-difluorophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C16H6F5NO3
reactant | 2-(ethylaminomethyl)morpholine | C(C)NCC1CNCCO1 | C7H16N2O
product | 7-[2-(ethylaminomethyl)morpholino]-1(2,4-difluorophenyl)-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C(C)NCC1OCCN(C1)C1=C(C=C2C(C(=CN(C2=C1F)C1=C(C=C(C=C1)F)F)C(=O)O)=O)F | C23H21F4N3O4
